US06410781B1
A mixture of (1S, 2R)-2-(3,5-difluorophenylcarbonyl)cyclohexanecarboxylic acid (1 g, 3.7 mmol), 10% Pd(OH)2 on carbon (1 g), tetrahydrofuran (10 mL) and acetic acid (0.5 mL) was shaken under hydrogen atmosphere at 50 psi for 96 h. The reaction mixture was filtered through CeliteR, and filtrate and evaporated to give (1S, 2R)-2-(3,5-difluorophenylmethyl)cyclohexanecarboxylic acid, as a white solid (0.9 g, 95%).

reactant | (1S, 2R)-2-(3,5-difluorophenylcarbonyl)cyclohexanecarboxylic acid | 3.7 mmol, 1 g | FC=1C=C(C=C(C1)F)C(=O)[C@H]1[C@H](CCCC1)C(=O)O | C14H14F2O3
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Pd(OH)2 on carbon | 1 g | [OH-].[OH-].[Pd+2]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | (1S, 2R)-2-(3,5-difluorophenylmethyl)cyclohexanecarboxylic acid | FC=1C=C(C=C(C1)F)C[C@@H]1[C@H](CCCC1)C(=O)O | C14H16F2O2
